US04731448
Accordingly, the invention relates to a process for the preparation of 1-(2-hydroxyethyl)-2,2,6,6-tetramethyl-4-piperidinol from triacetoneamine, which comprises reducing triacetoneamine in a manner known per se by catalytic hydrogenation in water or in a polar organic solvent or in a mixture thereof with water, to give 2,2,6,6-tetramethyl-4-piperidinol, adding a catalytic amount of an inorganic or organic acid to the solution of 2,2,6,6-tetramethyl-4-piperidinol as obtained or after concentrating the solution by distillation, without further purification and/or isolation of the intermediate, with the proviso that, if the solution of the intermediate is concentrated, the addition of acid is made before or after the distillation, and that the concentrated solution or melt may be diluted again with the same solvent or with another solvent, and subsequently reacting said solution or melt of 2,2,6,6-tetramethyl-4-piperidinol with ethylene oxide in a molar excess of 1-35% in the temperature range from 60°-170° C.

reactant | 1-(2-hydroxyethyl)-2,2,6,6-tetramethyl-4-piperidinol | OCCN1C(CC(CC1(C)C)O)(C)C | C11H23NO2
reactant | triacetoneamine | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
solvent | water | O | H2O
product | 2,2,6,6-tetramethyl-4-piperidinol | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
